US08859732B2
2-(3′,5′-Di(docosyloxy)benzyl)-4-methoxybenzaldehyde (450 mg, 0.50 mmol) was dissolved in THF-EtOH (4 ml+0.5 ml), sodium borohydride (34 mg, 0.90 mmol) was added, and the mixture was stirred for 3.5 hr. 1N Hydrochloric acid was added dropwise to the reaction mixture to quench the reaction, and the mixture was extracted with chloroform (15 ml), washed once with 1N hydrochloric acid (10 ml), and 3 times with water (5 ml). The solvent was evaporated, and the obtained residue was precipitated with methanol (5 ml) to give 2-(3′,5′-di(docosyloxy)benzyl)-4-methoxybenzyl alcohol (424 mg, 0.47 mmol, 94%).

reactant | 2-(3′,5′-Di(docosyloxy)benzyl)-4-methoxybenzaldehyde | 0.50 mmol, 450 mg | C(CCCCCCCCCCCCCCCCCCCCC)OC=1C=C(CC2=C(C=O)C=CC(=C2)OC)C=C(C1)OCCCCCCCCCCCCCCCCCCCCCC | C59H102O4
reactant | sodium borohydride | 0.90 mmol, 34 mg | [BH4-].[Na+]
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | THF EtOH | 4 ml | C1CCOC1.CCO
product | 2-(3′,5′-di(docosyloxy)benzyl)-4-methoxybenzyl alcohol | 0.47 mmol, 424 mg, 94% | C(CCCCCCCCCCCCCCCCCCCCC)OC=1C=C(CC2=C(CO)C=CC(=C2)OC)C=C(C1)OCCCCCCCCCCCCCCCCCCCCCC | C59H104O4
